US05280022
A mixture of tetraethyl 4-phenoxybutylaminomethylenebisphosphonate (1.37 g) and concentrated hydrochloric acid (20 ml) was heated for two hours under reflux. The reaction mixture was concentrated under reduced pressure. The concentrate was treated with water to give 4-phenoxybutylaminomethylenebisphosphonic acid (0.549 g, 53%), m.p. 206° C. to 208° C.

reactant | tetraethyl 4-phenoxybutylaminomethylenebisphosphonate | 1.37 g | O(C1=CC=CC=C1)CCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C19H35NO7P2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 4-phenoxybutylaminomethylenebisphosphonic acid | 0.549 g, 53% | O(C1=CC=CC=C1)CCCCNC(P(O)(O)=O)P(O)(O)=O | C11H19NO7P2
